US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-furylcarboxamide
Hydrolysis was performed by stirring 2-furyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide (0.150 g, 0.207 mmol) in 4 mL of 4.0 N commercial solution of HCl in dioxane and 2 mL of 6.0 N aqueous HCl, at room temperature for 18 hours. The title compound was purified by preparative HPLC (15-80% acetonitrile in water) (0.050 g, 50% yield): 1H NMR (DMSO-d6) δ 8.8 (s, 1H), 8.6 (s, 1H), 8.3 (s, 1H), 8.0 (d, 1H), 7.8-7.7 (m, 4H), 7.5 (t, 1H), 7.3 (d, 1H), 6.6 (m, 1H); ES-MS (m/z) 371 [M+1]+.

reactant | 2-furyl-N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide | 0.207 mmol, 0.150 g | O1C(=CC=C1)C(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C44H36N6O3
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | 6.0 N, 2 mL | Cl | ClH
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-furylcarboxamide | 50% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(=O)C=1OC=CC1 | C20H14N6O2
